US04430265
N-t-butyloxycarbonyl-O-benzyl-L-serine (4.43 g, 15 m mols) and D-isoglutamine benzyl ester (3.54 g, 15 m mols) were dissolved in acetonitrile (100 ml), and under ice-cooling, N,N'-dicyclohexylcarbodiimide (3.50 g, 17 m mols) was added. The mixture was stirred under ice-cooling for 3 hours and, then, at room temperature for 15 hours. The precipitate was filtered off, the solvent was distilled off and the residue was dissolved in ethyl acetate (100 ml). The solution was washed with 1 N-hydrochloric acid, 5% aqueous sodium hydrogen carbonate and water in the order mentioned and dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was crystallized from ethyl acetate-petroleum ether. By the above procedure there was obtained 3.40 g of N-t-butyloxycarbonyl-O-benzyl-L-seryl-D-isoglutamine benzyl ester. m.p. 65°-66° C.; [α]D23 +5.7° (c=0.5, ethanol); Rf1 -0.73.

reactant | N-t-butyloxycarbonyl-O-benzyl-L-serine | 4.43 g | C(C)(C)(C)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
reactant | D-isoglutamine benzyl ester | 3.54 g | C(C1=CC=CC=C1)OC(CC[C@@H](N)C(N)=O)=O | C12H16N2O3
reactant | N,N'-dicyclohexylcarbodiimide | 3.50 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | N-t-butyloxycarbonyl-O-benzyl-L-seryl-D-isoglutamine benzyl ester | 3.40 g | C(C1=CC=CC=C1)OC(CC[C@@H](NC([C@@H](NC(=O)OC(C)(C)C)COCC1=CC=CC=C1)=O)C(N)=O)=O | C27H35N3O7
